US08859569B2
1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile
10.320 g (77.50 mmol) of 1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile was dissolved in 100 ml DMF, 30.304 g (93.01 mmol) of caesium carbonate and 16.116 g (85.26 mmol) of 2-fluorobenzyl bromide were added and it was stirred at RT overnight. The reaction mixture was concentrated by evaporation and taken up in dichloromethane and water was added. The organic phase was separated and the aqueous phase was extracted twice with dichloromethane. The combined organic phases were washed with saturated aqueous sodium chloride solution, filtered on a silicone filter and concentrated by evaporation. The residue was purified by silica-gel flash chromatography (eluent: hexane/ethyl acetate, gradient). 11.37 g (60% of theor.) of the target compound was obtained.

reactant | 1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile | 77.50 mmol, 10.320 g | N1N=C(C2=C1CCC2)C#N | C7H7N3
reactant | caesium carbonate | 93.01 mmol, 30.304 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluorobenzyl bromide | 85.26 mmol, 16.116 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile | FC1=C(CN2N=C(C3=C2CCC3)C#N)C=CC=C1 | C14H12FN3
